US07432258B2
f) N-[1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide
To a room temperature solution containing 1.59 g of 1-(4-bromo-3-fluorophenyl)-N-methyl-2-(4-morpholinyl)ethanamine (5.02 mmols) in 17 mL of dry DMF was added 2 g of (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid (7.25 mmols), 2.66 g of BOP reagent (6.02 mmols), and 1.4 mL of triethylamine (10.04 mmols). The reaction mixture was stirred at ambient temperature. After 24 h 10 mL of saturated aqueous NaHCO3 was added. The resulting precipitate was collected, washed with water, and dried in vacuo to afford an off-white solid. MS (ES) m/e 574, 576 [M+H]+.

reactant | 1-(4-bromo-3-fluorophenyl)-N-methyl-2-(4-morpholinyl)ethanamine | 5.02 mmols, 1.59 g | BrC1=C(C=C(C=C1)C(CN1CCOCC1)NC)F | C13H18BrFN2O
reactant | (6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)acetic acid | 7.25 mmols, 2 g | ClC=1C(=CC2=C(N(C(CO2)=O)CC(=O)O)C1)Cl | C10H7Cl2NO4
reactant | BOP reagent | 6.02 mmols, 2.66 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 10.04 mmols, 1.4 mL | C(C)N(CC)CC | C6H15N
reactant | NaHCO3 | 10 mL | C(=O)(O)[O-].[Na+]
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
product | N-[1-(4-bromo-3-fluorophenyl)-2-(4-morpholinyl)ethyl]-2-(6,7-dichloro-3-oxo-2,3-dihydro-4H-1,4-benzoxazin-4-yl)-N-methylacetamide | BrC1=C(C=C(C=C1)C(CN1CCOCC1)N(C(CN1C(COC2=C1C=C(C(=C2)Cl)Cl)=O)=O)C)F | C23H23BrCl2FN3O4
